US04824855
A mixture of 15.3 g (53 mmol) of 2-(N-methyl-N-trimethylsilylmethylamino)ethyl acetoacetate, 13.0 g (53 mmol) of cyclopropylmethyl 2-(3-nitrobenzylidene)acetoacetate, 4.4 ml of 28% aqueous ammonia and 50 ml of ethanol was stirred at the reflux temperature for 7 hours, and then the solvent was removed under reduced pressure. The residue was chromatographed on silica gel column to afford 3-cyclopropylmethyl 5-[2-(N-methyl-N-trimethylsilylmethylamino)ethyl] 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate (7.0 g, 25.7%) as yellow oil. Treatment of this oil with 1 equivalent of fumaric acid in ethanol gave the corresponding fumarate.

reactant | 2-(N-methyl-N-trimethylsilylmethylamino)ethyl acetoacetate | 53 mmol, 15.3 g | C(CC(=O)C)(=O)OCCN(C[Si](C)(C)C)C | C11H23NO3Si
reactant | cyclopropylmethyl 2-(3-nitrobenzylidene)acetoacetate | 53 mmol, 13.0 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCC2CC2)C(=O)C)C=CC1 | C15H15NO5
reactant | ammonia | 4.4 ml | N | H3N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-cyclopropylmethyl 5-[2-(N-methyl-N-trimethylsilylmethylamino)ethyl] 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylate | 7.0 g, 25.7% | CC=1NC(=C(C(C1C(=O)OCC1CC1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCN(C[Si](C)(C)C)C)C | C26H37N3O6Si
